US06809110B2
In analogy to the procedure described in example 1 d], [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester (example 7 a]) was reacted with [2-(4-tert-butyl-phenyl)-4-methyl-thiazol-5-yl]-methanol in tetrahydrofuran in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-3-{4-[2-(4-tert-butyl-phenyl)-4-methyl-thiazol-5-ylmethoxy]-3-fluoro-phenyl}-2-ethoxy-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-3-{4-[2-(4-tert-butyl-phenyl)-4-methyl-thiazol-5-ylmethoxy]-3-fluoro-phenyl}-2-ethoxy-propionic acid as a light yellow solid.

reactant | [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)F)OCC)=O | C13H17FO4
reactant | [2-(4-tert-butyl-phenyl)-4-methyl-thiazol-5-yl]-methanol | C(C)(C)(C)C1=CC=C(C=C1)C=1SC(=C(N1)C)CO | C15H19NOS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [rac]-3-{4-[2-(4-tert-butyl-phenyl)-4-methyl-thiazol-5-ylmethoxy]-3-fluoro-phenyl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(C)(C)C)C)F)OCC)=O | C28H34FNO4S
